US07521457B2
a) 7-nitro-2,3-dihydro-isoindol-1-one
1.5 g (5.473 mmol) methyl 2-bromomethyl-6-nitro-benzoate are dissolved in 20 ml N,N-dimethylformamide and combined with 15 ml of methanolic ammonia (7 mmol/ml). After 20 h at 25° C. the mixture is diluted with 100 ml of ethyl acetate and extracted 3 times with saturated sodium hydrogen carbonate solution. The organic phase is dried with magnesium sulphate and the solvent is eliminated in vacuo.

reactant | methyl 2-bromomethyl-6-nitro-benzoate | 5.473 mmol, 1.5 g | BrCC1=C(C(=O)OC)C(=CC=C1)[N+](=O)[O-] | C9H8BrNO4
reactant | ammonia | 7 mmol/ml, 15 ml | N | H3N
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 7-nitro-2,3-dihydro-isoindol-1-one | [N+](=O)([O-])C=1C=CC=C2CNC(C12)=O | C8H6N2O3
